US08227468B2
4-Fluoro-N-[(1S,2S)-2-hydroxy-6-[4-(oxetan-3-yl)piperazin-1-yl]indan-1-yl]benzamide
To a solution of tert-butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]piperazine-1-carboxylate (300 mg, 0.659 mmol) in 1,4-dioxane (5.0 mL), add 4 M hydrogen chloride in dioxane (5.0 mL) at room temperature and stir for 1 hr. Concentrate the suspension in vacuo. Add to the residue saturated aqueous sodium bicarbonate (50 mL) and extract with ethyl acetate (3×50 mL). Wash the combined organic layers with brine, dry over sodium sulfate, and concentrate in vacuo. Dissolve the residue in methanol (20 mL) and add 3-oxetanone (142 mg, 1.98 mmol), glacial acetic acid (170 μL, 2.96 mmol), and crushed activated 4 Å molecular sieves. Stir the resulting suspension at 50° C. for 1 hr. Add sodium cyanoborohydride (131 mg, 1.98 mmol) at room temperature and stir overnight. Add a saturated sodium bicarbonate solution (20 mL) and stir for 20 min. Extract with dichloromethane (3×50 mL) and wash the combined organic layers with water and brine. Dry the organic portion over sodium sulfate, filter, and concentrate to obtain the title compound (220 mg, 81%). LC-ES/MS m/z 412 [M+H]+.

reactant | tert-butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]piperazine-1-carboxylate | 0.659 mmol, 300 mg | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)N2CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C25H30FN3O4
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | 3-oxetanone | 1.98 mmol, 142 mg | O1CC(C1)=O | C3H4O2
reactant | acetic acid | 2.96 mmol, 170 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.98 mmol, 131 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-N-[(1S,2S)-2-hydroxy-6-[4-(oxetan-3-yl)piperazin-1-yl]indan-1-yl]benzamide | 220 mg, 81% | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)N2CCN(CC2)C2COC2)O)C=C1 | C23H26FN3O3
